US07018988B2
(3EZ,5S)-1-benzoyl-5-(4-morpholinylcarbonyl)-3-pyrrolidinone O-(3,4-dichlorobenzyl)-oxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, benzoyl chloride, and morpholine the title compound was obtained in 69% purity by LC/MS. MS(ESI+): m/z=476.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (3EZ,5S)-1-benzoyl-5-(4-morpholinylcarbonyl)-3-pyrrolidinone O-(3,4-dichlorobenzyl)-oxime | ClC=1C=C(CON=C2CN([C@@H](C2)C(=O)N2CCOCC2)C(C2=CC=CC=C2)=O)C=CC1Cl | C23H23Cl2N3O4
